### PR TITLE
[Merged by Bors] - feat(SetTheory/ZFC/Ordinal): Lean ordinals to ZFC ordinals

### PR DESCRIPTION
**Pull request by vihdzp**
We define `Ordinal.toZFSet` and prove that its outputs are precisely the ZFC ordinals. Moved from #19985.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/ZFC/Ordinal.lean [hunk 1]
```diff
@@ -230,10 +234,139 @@ theorem _root_.ZFSet.isOrdinal_iff_isWellOrder : x.IsOrdinal ↔
...
+  rw [← hy.not_subset_iff_mem hx]
+  exact fun h' ↦ (rank_mono h').not_gt h
+
+theorem subset_iff_rank_le {x y : ZFSet} (hx : IsOrdinal x) (hy : IsOrdinal y) :
+    x ⊆ y ↔ rank x ≤ rank y := by
+  rw [← notMem_iff_subset hy hx, mem_iff_rank_lt hy hx, not_lt]
+
+theorem rank_inj {x y : ZFSet} (hx : IsOrdinal x) (hy : IsOrdinal y) :
+    rank x = rank y ↔ x = y := by
+  rw [le_antisymm_iff, subset_antisymm_iff, subset_iff_rank_le hx hy, subset_iff_rank_le hy hx]
```
Comment (alreadydone) [inline Mathlib/SetTheory/ZFC/Ordinal.lean]: Maybe swap the two sides of the first two lemmas (and rename)?

File: Mathlib/SetTheory/ZFC/Basic.lean [hunk 2]
```diff
@@ -379,15 +379,19 @@ theorem singleton_eq_pair_iff {x y z : ZFSet} : ({x} : ZFSet) = {y, z} ↔ x = y
   rw [eq_comm, pair_eq_singleton_iff]
   simp_rw [eq_comm]
 
+set_option linter.deprecated false in
 /-- `omega` is the first infinite von Neumann ordinal -/
+@[deprecated "construct `omega` by using `Ordinal.toZFSet` instead" (since := "2025-06-30")]
 def omega : ZFSet :=
   mk PSet.omega
```
Comment (alreadydone) [inline Mathlib/SetTheory/ZFC/Basic.lean]: I see no reason to deprecate this. It's a nice computable explicit construction. Can you instead show that it's equal to `Ordinal.omega.toZFSet`?

File: Mathlib/SetTheory/ZFC/Ordinal.lean [hunk 3]
```diff
@@ -230,10 +234,139 @@ theorem _root_.ZFSet.isOrdinal_iff_isWellOrder : x.IsOrdinal ↔
...
+  exact toZFSet_mem_toZFSet_of_lt (hc.trans_le h)
+
+@[simp]
+theorem toZFSet_mem_toZFSet_iff {a b : Ordinal} : a.toZFSet ∈ b.toZFSet ↔ a < b := by
+  refine ⟨?_, toZFSet_mem_toZFSet_of_lt⟩
+  contrapose!
+  exact fun h ↦ notMem_of_subset (toZFSet_subset_toZFSet_of_le h)
+
+@[simp]
+theorem toZFSet_subset_toZFSet_iff {a b : Ordinal} : a.toZFSet ⊆ b.toZFSet ↔ a ≤ b := by
```
Comment (alreadydone) [inline Mathlib/SetTheory/ZFC/Ordinal.lean:344]: maybe make `toZFSet` an OrderEmbedding?

File: Mathlib/SetTheory/ZFC/PSet.lean [hunk 4]
```diff
@@ -367,11 +370,14 @@ theorem mem_pair {x y z : PSet} : x ∈ ({y, z} : PSet) ↔ Equiv x y ∨ Equiv
   simp
 
 /-- The n-th von Neumann ordinal -/
+@[deprecated "construct `ofNat` by using `Ordinal.toPSet` instead" (since := "2025-06-30")]
 def ofNat : ℕ → PSet
```
Comment (alreadydone) [inline Mathlib/SetTheory/ZFC/PSet.lean]: Again: instead of deprecating, can you show it's equal to `(n : Ordinal).toPSet`?

File: Mathlib/SetTheory/ZFC/Basic.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Basic.lean]: Is constructibility relevant here? I added ~~`toZFSet_empty`~~ `toZFSet_zero` and `toZFSet_succ`, which together are enough to show this equivalence, if we really want to have these two separate but equivalent ways to define the natural numbers.

File: Mathlib/SetTheory/ZFC/Ordinal.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Ordinal.lean:344]: There's a bunch of theorems I need to prove before I can get to this one, so I'm not sure if it's worth it. We can always add the order-embedding version later if we need it.

File: Mathlib/SetTheory/ZFC/Basic.lean [hunk 5]
```diff
@@ -383,11 +383,9 @@ theorem singleton_eq_pair_iff {x y z : ZFSet} : ({x} : ZFSet) = {y, z} ↔ x = y
...
 
-@[simp]
 theorem omega_zero : ∅ ∈ omega :=
   ⟨⟨0⟩, Equiv.rfl⟩
 
-@[simp]
```
Comment (alreadydone) [inline Mathlib/SetTheory/ZFC/Basic.lean:394]: Can you restore these simp?

File: Mathlib/SetTheory/ZFC/Ordinal.lean [hunk 6]
```diff
@@ -230,10 +234,155 @@ theorem _root_.ZFSet.isOrdinal_iff_isWellOrder : x.IsOrdinal ↔
...
+  · rw [← h.toZFSet_rank_eq]
+    exact Set.mem_range_self _
+  · rintro ⟨a, rfl⟩
+    exact isOrdinal_toZFSet a
+
+@[simp]
+theorem toZFSet_zero : toZFSet 0 = ∅ := by
+  ext; simp [mem_toZFSet_iff]
+
+@[simp]
```
Comment (alreadydone) [inline Mathlib/SetTheory/ZFC/Ordinal.lean]: simpNF error here

File: Mathlib/SetTheory/ZFC/Basic.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/SetTheory/ZFC/Basic.lean]: I think it's indeed nicer to keep the existing, more natural definition (computability and that people first came up with this definition are evidence that it's more natural).

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/SetTheory/ZFC/Ordinal.lean [hunk 7]
```diff
@@ -230,10 +234,155 @@ theorem _root_.ZFSet.isOrdinal_iff_isWellOrder : x.IsOrdinal ↔
...
+  rw [toZFSet, mk_eq, ZFSet.mk_mem_iff, mem_toPSet_iff]
+  convert Iff.rfl
+  rw [toZFSet, eq, PSet.Equiv.comm]
+
+@[simp]
+theorem rank_toZFSet (o : Ordinal) : o.toZFSet.rank = o :=
+  rank_toPSet o
+
+@[simp]
+theorem toZFSet_toSet {o : Ordinal} : o.toZFSet.toSet = toZFSet '' Iio o := by
```
Comment (staroperator) [inline Mathlib/SetTheory/ZFC/Ordinal.lean]: This should be named as `toSet_toZFSet`

File: Mathlib/SetTheory/ZFC/Ordinal.lean (hunk 3 above)
Comment (staroperator) [reply Mathlib/SetTheory/ZFC/Ordinal.lean:344]: We can add `toZFSet_strictMono`, `toZFSet_monotone` and `toZFSet_injective` instead (which should be useful).

File: Mathlib/SetTheory/ZFC/Ordinal.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Ordinal.lean]: I agree, and thanks for reminding me of this PR! I'll clean it up.

File: Mathlib/SetTheory/ZFC/Ordinal.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Ordinal.lean]: Ugh, I really need to get rid of the `o + 1 = succ o` simp lemma.

File: Mathlib/SetTheory/ZFC/Ordinal.lean [hunk 8]
```diff
@@ -321,24 +321,29 @@ private theorem toZFSet_mem_toZFSet_of_lt {a b : Ordinal} (h : a < b) :
   rw [mem_toZFSet_iff]
   exact ⟨a, h, rfl⟩
 
-private theorem toZFSet_subset_toZFSet_of_le {a b : Ordinal} (h : a ≤ b) :
-    a.toZFSet ⊆ b.toZFSet := by
-  intro x hx
+theorem toZFSet_mono : Monotone toZFSet := by
```
Comment (staroperator) [inline Mathlib/SetTheory/ZFC/Ordinal.lean]: The [naming convention](https://leanprover-community.github.io/contribute/naming.html) is `_mono` for `a ≤ b → f a ≤ f b` and `_monotone` for `Monotone f`.

File: Mathlib/SetTheory/ZFC/Ordinal.lean [hunk 9]
```diff
@@ -321,24 +321,29 @@ private theorem toZFSet_mem_toZFSet_of_lt {a b : Ordinal} (h : a < b) :
...
-  refine ⟨?_, toZFSet_subset_toZFSet_of_le⟩
+  refine ⟨?_, fun h ↦ toZFSet_mono h⟩
   contrapose!
   exact fun h ↦ not_subset_of_mem (toZFSet_mem_toZFSet_of_lt h)
 
+theorem toZFSet_injective : Function.Injective toZFSet :=
+  fun _ ↦ by simp_all [le_antisymm_iff]
+
+theorem toZFSet_strictMono : StrictMono toZFSet :=
+  fun _ _ h ↦ by simpa [ssubset_iff_subset_not_subset] using ⟨h.le, h⟩
```
Comment (staroperator) [inline Mathlib/SetTheory/ZFC/Ordinal.lean]: I guess these can be golfed as
```suggestion
theorem toZFSet_mem_toZFSet_iff {a b : Ordinal} : a.toZFSet ∈ b.toZFSet ↔ a < b :=
  toZFSet_strictMono.lt_iff_lt

theorem toZFSet_subset_toZFSet_iff {a b : Ordinal} : a.toZFSet ⊆ b.toZFSet ↔ a ≤ b :=
  toZFSet_strictMono.le_iff_le

theorem toZFSet_injective : Function.Injective toZFSet :=
  toZFSet_strictMono.injective
```
if you prove `toZFSet_strictMono` firstly.

Comment (staroperator) [reply Mathlib/SetTheory/ZFC/Ordinal.lean]: <del> And that `toZFSet_strictMono` is exactly the `toZFSet_mem_toZFSet_of_lt` right now. </del> No I'm wrong, the `<` in `ZFSet` is not `∈`.

File: Mathlib/SetTheory/ZFC/Rank.lean [hunk 10]
```diff
@@ -136,6 +136,10 @@ variable {x y : ZFSet.{u}}
 noncomputable def rank : ZFSet.{u} → Ordinal.{u} :=
   Quotient.lift _ fun _ _ => PSet.rank_congr
 
+@[simp]
+theorem _root_.PSet.rank_mk (x : PSet) : rank (.mk x) = x.rank :=
+  rfl
```
Comment (staroperator) [inline Mathlib/SetTheory/ZFC/Rank.lean:145]: Should this be under `ZFSet` namespace? The functions in LHS are all under `ZFSet`.

File: Mathlib/SetTheory/ZFC/Ordinal.lean (hunk 9 above)
Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Ordinal.lean]: `toZFSet_subset_toZFSet_iff` is used to prove `toZFSet_strictMono`, so this doesn't quite work out. Injectivity can be golfed, though.

File: Mathlib/SetTheory/ZFC/Rank.lean (hunk 10 above)
Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Rank.lean:145]: I've moved it to the ZFSet namespace.

File: Mathlib/SetTheory/ZFC/PSet.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/PSet.lean]: This would require me to add more API on `Ordinal.toPSet`, and frankly I'd rather not. I've been arguing over at [#mathlib4 > ZFSet and computability](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/ZFSet.20and.20computability/with/538066457) that `PSet` could and should go altogether.

Can I leave it as a TODO instead?

File: Mathlib/SetTheory/ZFC/Ordinal.lean [hunk 11]
```diff
@@ -229,10 +230,160 @@ theorem _root_.ZFSet.isOrdinal_iff_isWellOrder : x.IsOrdinal ↔
...
+  · rintro ⟨a, rfl⟩
+    exact isOrdinal_toZFSet a
+
+@[simp]
+theorem toZFSet_zero : toZFSet 0 = ∅ := by
+  ext; simp [mem_toZFSet_iff]
+
+@[simp]
+theorem toZFSet_succ (o : Ordinal) : toZFSet (Order.succ o) = insert (toZFSet o) (toZFSet o) := by
+  aesop (add simp [mem_toZFSet_iff, le_iff_eq_or_lt])
```
Comment (staroperator) [inline Mathlib/SetTheory/ZFC/Ordinal.lean]: Should these also go to `Ordinal` namespace? The LHS is `Ordinal.toZFSet`.

**Review by staroperator — APPROVED** [review]
Looks good to me now!

File: Mathlib/SetTheory/ZFC/Ordinal.lean [hunk 12]
```diff
@@ -229,10 +230,160 @@ theorem _root_.ZFSet.isOrdinal_iff_isWellOrder : x.IsOrdinal ↔
...
+The elements of `o.toZFSet` are all `a.toZFSet` with `a < o`. -/
+noncomputable def toZFSet (o : Ordinal.{u}) : ZFSet.{u} :=
+  .mk o.toPSet
+
+@[simp]
+theorem mk_toPSet (o : Ordinal) : .mk o.toPSet = o.toZFSet :=
+  rfl
+
+theorem mem_toZFSet_iff {o : Ordinal} {x : ZFSet} : x ∈ o.toZFSet ↔ ∃ a < o, a.toZFSet = x := by
+  refine Quotient.inductionOn x fun x ↦ ?_
```
Comment (b-mehta) [inline Mathlib/SetTheory/ZFC/Ordinal.lean]: Can we use `induction x` or `induction x using Quotient.inductionOn` here?

File: Mathlib/SetTheory/ZFC/Ordinal.lean [hunk 13]
```diff
@@ -229,10 +230,160 @@ theorem _root_.ZFSet.isOrdinal_iff_isWellOrder : x.IsOrdinal ↔
...
+  rw [toZFSet, mk_eq, ZFSet.mk_mem_iff, mem_toPSet_iff]
+  convert Iff.rfl
```
Comment (b-mehta) [inline Mathlib/SetTheory/ZFC/Ordinal.lean]: This looks odd to me, what's the idea of this line?

**Review by b-mehta — COMMENTED** [review]
Looks overall sensible! 

bors d+

File: Mathlib/SetTheory/ZFC/Ordinal.lean (hunk 12 above)
Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Ordinal.lean]: Yep!

File: Mathlib/SetTheory/ZFC/Ordinal.lean (hunk 13 above)
Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Ordinal.lean]: I've replaced that with `congr!`.
